US08377923B2
WSC•monohydrochloride (18.1 g), tert-butyl carbazate (10.5 g) and 4-(dimethylamino)pyridine (461 mg) were sequentially added to a solution of 2-(4-chloro-2-fluorophenoxy)-2-methylpropanoic acid (17.6 g) in acetonitrile (170 ml), followed by stirring at room temperature for 14 hours. The reaction solution was concentrated under reduced pressure and ethyl acetate was then added thereto. The organic layer was washed with water, 0.5M hydrochloric acid, saturated aqueous sodium bicarbonate solution-water (1:1) and then saturated brine in this order and was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The resulting oil (21.8 g) was dissolved in ethyl acetate, 4M hydrogen chloride-ethyl acetate was added thereto, followed by stirring at room temperature for 5 hours and was then concentrated under reduced pressure. Ethyl acetate was added thereto, followed by stirring and the solid was thus separated by filtration. Saturated aqueous sodium bicarbonate was added to the solid thus obtained, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine-water (1:1) and then saturated brine in this order and was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain, as a colorless oil, 2-(4-chloro-2-fluorophenoxy)-2-methylpropanohydrazide (12.8 g).

reactant | tert-butyl carbazate | 10.5 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 2-(4-chloro-2-fluorophenoxy)-2-methylpropanoic acid | 17.6 g | ClC1=CC(=C(OC(C(=O)O)(C)C)C=C1)F | C10H10ClFO3
catalyst | 4-(dimethylamino)pyridine | 461 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 170 ml | C(C)#N | C2H3N
product | 2-(4-chloro-2-fluorophenoxy)-2-methylpropanohydrazide | 12.8 g | ClC1=CC(=C(OC(C(=O)NN)(C)C)C=C1)F | C10H12ClFN2O2
